US05026707
The dimethoxytetralone (0.4 g; 1.94 mmol) was dissolved in 10 ml of toluene. To the solution were added 0.46 ml (4 mmol) of N-methylpiperazine followed by 0.91 g (4.8 mmol) of p-toluenesulfonic acid. The mixture was stirred for 31/2 hours at reflux under nitrogen with constant water removal. The mixture then was cooled to room temperature, and the volatile material was removed in vacuo to give 3-(N-methylpiperazinyl)-5,8-dimethoxy-1,2-dihydronaphthalene as an orange-brown residue.

reactant | dimethoxytetralone | 1.94 mmol, 0.4 g | COC1(C(C2=CC=CC=C2CC1)=O)OC | C12H14O3
reactant | N-methylpiperazine | 4 mmol, 0.46 ml | CN1CCNCC1 | C5H12N2
reactant | p-toluenesulfonic acid | 4.8 mmol, 0.91 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(N-methylpiperazinyl)-5,8-dimethoxy-1,2-dihydronaphthalene | CN1C(CNCC1)C=1CCC2=C(C=CC(=C2C1)OC)OC | C17H24N2O2
